US07557101B2
4-Methoxy-piperidine-1-carbonyl chloride
To a stirred solution of triphosgene (7.4 g, 0.025 mmol) in dichloromethane (200 ml) at ice bath was added dropwise a solution of 4-methoxy-piperidine hydrochloride salt (10 g, 0.066 mmol) and pyridine (10.9 g, 0.139 mmol) in dichloromethane (100 ml). The mixture was stirred over night and filtered through a silica pad, eluting with dichloromethane and evaporated. After trituration with diisopropyl ether, the mixture was used without purification.

reactant | triphosgene | 0.025 mmol, 7.4 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-methoxy-piperidine hydrochloride salt | 0.066 mmol, 10 g | Cl.COC1CCNCC1
reactant | pyridine | 0.139 mmol, 10.9 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Methoxy-piperidine-1-carbonyl chloride | COC1CCN(CC1)C(=O)Cl | C7H12ClNO2
